US09303051B2
To a heterogeneous solution of cyclic cidofovir (39 g, 0.131 mol., 1 equiv, purchased from Gilead Sciences) in N,N-DMF (2.0 L) under a nitrogen atmosphere was added N,N′-dicyclohexyl-4-morpholinecarboxamidine (DCMC) (0.131 mol, 38.51 g, 1 equiv.). This was stirred overnight. This dissolved most of the solid in the reaction mixture. To this solution was added 1-bromo-3-hexadecyloxypropane (238.45 g, 0.656 mol, 5 equiv.). The reaction mixture was heated to 80° C. and stirred for 6 hours. The crude reaction mixture was concentrated in vacuo at 80° C. The crude reaction mixture was absorbed on silica gel (300 g) and purified via column chromatography (800 g SiO2). The column was eluted with dichloromethane (6 L) to remove the excess 1-bromo-3-hexadecyloxypropane. The solvent phase was then switched to 9:1 CH2Cl2:EtOH (32 L). The product came off with this solvent system. Fractions 30-39 were combined to give hexadecyloxypropyl-cyclic cidofovir (17.8 g) in a 25% yield.

reactant | cyclic cidofovir | 0.131 mol, 39 g, 1 equiv | C1[C@@H](OCP(=O)(O1)O)CN2C=CC(=NC2=O)N | C8H12N3O5P
reactant | N,N′-dicyclohexyl-4-morpholinecarboxamidine | 0.131 mol, 38.51 g, 1 equiv. | C1(CCCCC1)NC(=NC1CCCCC1)N1CCOCC1 | C17H31N3O
reactant | 1-bromo-3-hexadecyloxypropane | 0.656 mol, 238.45 g, 5 equiv. | BrCCCOCCCCCCCCCCCCCCCC | C19H39BrO
product | hexadecyloxypropyl-cyclic cidofovir | 17.8 g, 25% yield | CCCCCCCCCCCCCCCCOCCCOP1(=O)CO[C@H](CO1)CN2C=CC(=NC2=O)N | C27H50N3O6P
